US06599925B2
6-(3-Pentyl-benzofuran-2-yl)-naphthalen-2-ol
Following the procedure described in Step 3 of Example 1, the title compound was prepared from 2-(6-methoxy-naphthalen-2-yl)-3-pentyl-benzofuran (8.0 g, 23.3 mmol) and boron tribromide (70 mL of 1 M solution in methylene chloride, 70 mmol). Purification by chromatography on a Biotage apparatus using 4% ethyl acetate in hexane as the mobile phase afforded the title compound as a solid (5.0 g), mp 100-102° C. Mass spectrum (+APCl, [M+H]+) m/z 331. 1HNMR (300 MHz, DMSO-d6): δ9.94 (s, 1H), 8.17 (s, 1H), 7.9 (d, 1H, J=8.8 Hz), 7.84-7.75 (m, 2H), 7.65 (m, 1H), 7.58 (d, 1H, J=7.3 Hz), 7.34-7.23 (m, 2H), 7.16-7.12 (m, 2H), 2.69 (t, 2H, J=7.5 Hz), 1.71 (p, 2H, J=6.9 Hz), 1.42-1.25 (m, 4H), and 0.83 ppm (t, 3H, J=6.9 Hz). Elemental Analysis for C23H22O2.0.2H2O: Calculated: C, 82.70; H, 6.76; N, 0.00. Found: C, 82.82; H, 6.73; N, 0.09.

reactant | 2-(6-methoxy-naphthalen-2-yl)-3-pentyl-benzofuran | 23.3 mmol, 8.0 g | COC=1C=C2C=CC(=CC2=CC1)C=1OC2=C(C1CCCCC)C=CC=C2 | C24H24O2
reactant | boron tribromide | 70 mmol, 1 M, 70 mL | B(Br)(Br)Br | BBr3
product | 6-(3-Pentyl-benzofuran-2-yl)-naphthalen-2-ol | 5.0 g | C(CCCC)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=CC1=CC2)O | C23H22O2
